US08097759B2
5-Bromo-2-hydroxy-N-(3,5-dichloro-4-hydroxyphenyl)benzamide (Compound No. 156)
Using 5-bromosalicylic acid and 3,5-dichloro-4-hydroxyaniline as the raw materials, the same operation as the example 16 gave the title compound. 22.5%).

reactant | 5-bromosalicylic acid | BrC1=CC=C(C(C(=O)O)=C1)O | C7H5BrO3
reactant | 3,5-dichloro-4-hydroxyaniline | ClC=1C=C(N)C=C(C1O)Cl | C6H5Cl2NO
product | 5-Bromo-2-hydroxy-N-(3,5-dichloro-4-hydroxyphenyl)benzamide | BrC=1C=CC(=C(C(=O)NC2=CC(=C(C(=C2)Cl)O)Cl)C1)O | C13H8BrCl2NO3
